US09403807B2
Step A: tert-butyl (1-(1-(4-chlorophenyl)-1-(oxiran-2-yl)propyl)-1H-indol-4-yl)carbamate
To a solution of NaH (41 mg, 0.764 mmol, 60% in oil) in DMSO (15 mL) at 0° C. was added trimethylsulfoxonium iodide (235 mg, 1.07 mmol) divided into several portions. The mixture was stirred at room temperature until the mixture became clear. To the solution of tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate (210 mg, 0.509 mmol), as described in Example 21 Step B, in THF (15 mL) was added the upper solution dropwise at 0° C. Then the mixture was stirred at room temperature for 2 h. The reaction was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with brine (15 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography with PE/EA (10/1 to 3/1, v/v) to afford the title compound as a colorless solid. LC/MS m/z=448.9[M+Na]+.

reactant | NaH | 0.764 mmol, 41 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 1.07 mmol, 235 mg | [I-].C[S+](=O)(C)C
reactant | tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate | 0.509 mmol, 210 mg | ClC1=CC=C(C=C1)C(C=O)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C23H25ClN2O3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl (1-(1-(4-chlorophenyl)-1-(oxiran-2-yl)propyl)-1H-indol-4-yl)carbamate | ClC1=CC=C(C=C1)C(CC)(C1OC1)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H27ClN2O3
